2172-04-25 20:39:00 Physician Attending Progress Note
Chief Complaint: B/L PEs, Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on 100% NRB but is comfortable
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2172-4-25**] 04:56 PM
   Morphine Sulfate - [**2172-4-25**] 05:23 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-4-25**] 08:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 87 (76 - 96) bpm
   BP: 126/67(81) {98/53(64) - 126/67(81)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.6 kg (admission): 91.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,426 mL
                                                                  1,180 mL
   PO:
                                                                    900 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    526 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    670 mL
   Urine:
                                                                    835 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    591 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.4 g/dL
   392 K/uL
   103 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   8 mg/dL
   103 mEq/L
   137 mEq/L
   26.7 %
   10.0 K/uL
        [image002.jpg]
                             [**2172-4-23**]  02:37 PM
                             [**2172-4-23**]  05:48 PM
                             [**2172-4-24**]  03:24 AM
                             [**2172-4-25**]  02:53 AM
   WBC
   8.8
   10.0
   Hct
   27.8
   26.7
   Plt
   398
   392
   Cr
   0.7
   0.6
   0.6
   TCO2
   24
   Glucose
   109
   99
   103
   Other labs: PT / PTT / INR:15.1/55.3/1.3, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   55 yo woman with large bilateral PEs 2 wks s/p lumbar laminectomy
   PEs/Hypoxemia: Cont heparin gtt - therapeutic last PM but continuing to
   be sdifficult to keep her therapeutic
   s/p lamicetomy: monitor incision, pain control
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2172-4-23**] 08:31 AM
   20 Gauge - [**2172-4-23**] 10:37 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2172-04-27 12:06:00 Physician Attending Progress Note
Chief Complaint: Bilateral PEs, Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels tired but not SOB
   24 Hour Events:
   Has been weaned to 35% face mask plus 4L by NC
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2172-4-26**] 08:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-4-27**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 75 (67 - 94) bpm
   BP: 109/56(69) {93/30(52) - 139/79(105)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 91.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,667 mL
                                                                    847 mL
   PO:
                                                                    960 mL
                                                                    540 mL
   TF:
   IVF:
                                                                    707 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    550 mL
   Urine:
                                                                  1,575 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     92 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.6 g/dL
   405 K/uL
   137 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.7 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   26.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2172-4-23**]  02:37 PM
                             [**2172-4-23**]  05:48 PM
                             [**2172-4-24**]  03:24 AM
                             [**2172-4-25**]  02:53 AM
                             [**2172-4-26**]  01:47 AM
                             [**2172-4-27**]  04:12 AM
   WBC
   8.8
   10.0
   8.1
   7.7
   Hct
   27.8
   26.7
   26.9
   26.3
   Plt
   398
   392
   372
   405
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   TCO2
   24
   Glucose
   109
   99
   103
   102
   137
   Other labs: PT / PTT / INR:16.4/97.8/1.5, Ca++:10.4 mg/dL, Mg++:2.6
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   55 yo woman with large bilateral PEs 2 wks s/p lumbar laminectomy
   PEs/Hypoxemia/DVT: Cont heparin gtt.  On Coumadin awaiting INR to be
   therapeutic.  Cont to wean O2 - still desatting with movement.
   s/p Laminectomy: plain films of the l spine later this week
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2172-4-23**] 08:31 AM
   20 Gauge - [**2172-4-26**] 02:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2172-04-28 11:50:00 Physician Attending Progress Note
Chief Complaint: PEs, Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Breathing comfortable this AM
   24 Hour Events:
   Desat overnight while sleeping to mid-80s but transient and improved
   with increase of O2
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,950 units/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-4-28**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 75 (71 - 95) bpm
   BP: 127/70(83) {98/48(60) - 138/78(91)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 91.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,943 mL
                                                                    437 mL
   PO:
                                                                  1,140 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    803 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                  1,300 mL
   Urine:
                                                                  1,025 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    918 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.6 g/dL
   401 K/uL
   100 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.4 mEq/L
   7 mg/dL
   102 mEq/L
   140 mEq/L
   26.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2172-4-23**]  02:37 PM
                             [**2172-4-23**]  05:48 PM
                             [**2172-4-24**]  03:24 AM
                             [**2172-4-25**]  02:53 AM
                             [**2172-4-26**]  01:47 AM
                             [**2172-4-27**]  04:12 AM
                             [**2172-4-28**]  05:27 AM
   WBC
   8.8
   10.0
   8.1
   7.7
   6.6
   Hct
   27.8
   26.7
   26.9
   26.3
   26.7
   Plt
   398
   392
   372
   405
   401
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   24
   Glucose
   109
   99
   103
   102
   137
   100
   Other labs: PT / PTT / INR:17.3/150.0/1.5, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 DEPRESSION
 ACTIVITY INTOLERANCE
 PULMONARY EMBOLISM (PE), ACUTE
   55 yo woman with large bilateral PEs 2 wks s/p lumbar laminectomy
   PEs/Hypoxemia/DVT: Cont heparin gtt - now supratheapeutic, adjust per
   protocol.  Had desat overnight while sleeping but oxygenating well on
   35% FIO2 this morning while awake.  On Coumadin awaiting INR to be
   therapeutic.
   s/p Laminectomy: plain films of the L-spine later this week.  Cont po
   pain meds
   Social work consult.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2172-4-23**] 08:31 AM
   20 Gauge - [**2172-4-26**] 02:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2172-04-29 12:00:00 Physician Attending Progress Note
Chief Complaint: PEs, Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels well this AM.  Tired but breathing continues to improve
   24 Hour Events:
   Has remained on 35%-40% face mask over last 24 hrs.
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,950 units/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-4-29**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 75 (63 - 98) bpm
   BP: 115/65(76) {90/32(47) - 142/85(97)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.3 kg (admission): 91.6 kg
   Height: 64 Inch
             Total In:
                                                                    952 mL
                                                                    651 mL
   PO:
                                                                    250 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    702 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    750 mL
   Urine:
                                                                  2,350 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,398 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   433 K/uL
   87 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.3 mEq/L
   6 mg/dL
   103 mEq/L
   141 mEq/L
   28.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2172-4-23**]  02:37 PM
                             [**2172-4-23**]  05:48 PM
                             [**2172-4-24**]  03:24 AM
                             [**2172-4-25**]  02:53 AM
                             [**2172-4-26**]  01:47 AM
                             [**2172-4-27**]  04:12 AM
                             [**2172-4-28**]  05:27 AM
                             [**2172-4-28**]  12:11 PM
                             [**2172-4-29**]  02:17 AM
   WBC
   8.8
   10.0
   8.1
   7.7
   6.6
   6.5
   Hct
   27.8
   26.7
   26.9
   26.3
   26.7
   28.7
   Plt
   398
   392
   372
   [**Telephone/Fax (3) 12164**]
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   24
   Glucose
   109
   99
   103
   102
   137
   100
   99
   87
   Other labs: PT / PTT / INR:21.0/78.4/2.0, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 DEPRESSION
 ACTIVITY INTOLERANCE
 PULMONARY EMBOLISM (PE), ACUTE
   55 yo woman with large bilateral PEs 2 wks s/p lumbar laminectomy
   PEs/Hypoxemia/DVT: Cont hepar
   s/p Laminectomy:  Cont po pain meds
   Appreciate social work input
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-4-26**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2172-05-01 11:18:00 Physician Attending Progress Note
Chief Complaint: PEs, Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Back pain/pleuritic CP improved this AM
   24 Hour Events:
   CTA: new LUL infiltrate potentially c/w decreased perfusion with
   distinct pleural-based area of consildation.  New L-sided effusion.
   Small splenic infarct.
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Headache;
   Last dose of Antibiotics:
   Vancomycin - [**2172-4-30**] 04:13 PM
   Cefipime - [**2172-5-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-4-30**] 06:45 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Chest pain
   Respiratory: No(t) Dyspnea, pleuritic CP
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2172-5-1**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 72 (67 - 97) bpm
   BP: 137/66(83) {95/46(57) - 144/74(89)} mmHg
   RR: 16 (15 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.3 kg (admission): 91.6 kg
   Height: 64 Inch
             Total In:
                                                                    575 mL
                                                                    270 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    335 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    620 mL
   Urine:
                                                                    650 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -75 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered throughout L
   > R)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.9 g/dL
   404 K/uL
   90 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   7 mg/dL
   100 mEq/L
   135 mEq/L
   28.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2172-4-23**]  02:37 PM
                             [**2172-4-23**]  05:48 PM
                             [**2172-4-24**]  03:24 AM
                             [**2172-4-25**]  02:53 AM
                             [**2172-4-26**]  01:47 AM
                             [**2172-4-27**]  04:12 AM
                             [**2172-4-28**]  05:27 AM
                             [**2172-4-28**]  12:11 PM
                             [**2172-4-29**]  02:17 AM
                             [**2172-5-1**]  03:32 AM
   WBC
   8.8
   10.0
   8.1
   7.7
   6.6
   6.5
   5.7
   Hct
   27.8
   26.7
   26.9
   26.3
   26.7
   28.7
   28.6
   Plt
   398
   392
   372
   [**Telephone/Fax (3) 12164**]
   404
   Cr
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   0.5
   TCO2
   24
   Glucose
   109
   99
   103
   102
   137
   100
   99
   87
   90
   Other labs: PT / PTT / INR:33.3/34.1/3.4, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 DEPRESSION
 ACTIVITY INTOLERANCE
 PULMONARY EMBOLISM (PE), ACUTE
   55 yo woman with large bilateral PEs 2 wks s/p lumbar laminectomy.
   Back in ICU after episode of tachypnea and hypoxemia yesterday
   PEs/Hypoxemia/DVT: Cont Coumadin - holding today given supratherpeutic
   INR
   Pulmonary infiltrates: Appears to be most consistent with poor
   perfusion from PEs - will d/c abx
   s/p Laminectomy:  Will need to adjust pain regimen for this and for
   pleuritic CP.  Will encourage her to take her prns and also consult
   pain service
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-4-30**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2172-05-02 11:56:00 Physician Resident Progress Note
Chief Complaint: Yesterday was evaluated by pain service. Did well
   overnight. No acute events.
   24 Hour Events:
 CALLED OUT
   Allergies:
   Ambien (Oral) (Zolpidem Tartrate)
   Headache;
   Last dose of Antibiotics:
   Cefipime - [**2172-5-1**] 08:00 AM
   Vancomycin - [**2172-5-1**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-2**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 65 (52 - 96) bpm
   BP: 109/60(73) {84/45(57) - 137/78(93)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.3 kg (admission): 91.6 kg
   Height: 64 Inch
             Total In:
                                                                  1,160 mL
                                                                  1,000 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    500 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    595 mL
   Urine:
                                                                  1,400 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Labs / Radiology
   422 K/uL
   8.8 g/dL
   78 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   11 mg/dL
   105 mEq/L
   141 mEq/L
   29.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2172-4-23**]  05:48 PM
                             [**2172-4-24**]  03:24 AM
                             [**2172-4-25**]  02:53 AM
                             [**2172-4-26**]  01:47 AM
                             [**2172-4-27**]  04:12 AM
                             [**2172-4-28**]  05:27 AM
                             [**2172-4-28**]  12:11 PM
                             [**2172-4-29**]  02:17 AM
                             [**2172-5-1**]  03:32 AM
                             [**2172-5-2**]  03:52 AM
   WBC
   8.8
   10.0
   8.1
   7.7
   6.6
   6.5
   5.7
   5.3
   Hct
   27.8
   26.7
   26.9
   26.3
   26.7
   28.7
   28.6
   29.3
   Plt
   398
   392
   372
   [**Telephone/Fax (2) 12219**]22
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   0.5
   0.6
   TCO2
   24
   Glucose
   99
   103
   102
   137
   100
   99
   87
   90
   78
   Other labs: PT / PTT / INR:25.8/33.3/2.5, ALT / AST:[**10-19**], Alk Phos / T
   Bili:68/0.3, Albumin:2.7 g/dL, LDH:222 IU/L, Ca++:8.1 mg/dL, Mg++:2.0
   mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   55 y/o F with hx of gastric bypass and recent spinal fusion on [**2172-4-7**]
   who presented with bilateral pulmonary emboli was called out to the
   floor but returned to the MICU yesterday afternoon after becoming
   hypotensive
   # Pulmonary emboli: She presented with diffuse PE's bilaterally and was
   started on heparin gtt. Patient did have signs of R heart strain on TTE
   but was never hemodynamically unstable. She did not require lysis. She
   initially required NRB face mask to maintain oxygen saturations but
   overtime was titrated down to 4L NC. Her INR and PTT are both now
   therapeutic.
   - On coumadin 5 mg qD; supratherapeutic today, will hold today and
   decrease dose tomorrow to 3mg QD.
   - D/c echo for now as unlikely to change management given known PE
   - wean O2 as tolerated
   - PT consulted
   - nebs PRN wheezing, SOB
   # Pneumonia- Possible PNA on CT scan, however, infiltrate may represent
   inflammation/infarction from PE. Stopped Vanco/Cefepime yesterday
   because unlikely to have pneumonia.
   # Pain Management s/p laminectomy: Midline incision healing well, pt
   still having pain in abdomen, low back. Ortho is following along.  Left
   back pain perhaps due to small splenic infarct seen on chest CT.
   - pain service consulted, appreciate recs
   - continue tizanidine, increase Gabapentin to 400 q8
   - stop prn morphine
   - plan to stagger sedating/pain meds to avoid stacking
   - ordered follow up spine films (per ortho request: AP & lateral
   L-spine x-rays)
   - will continue home pain control regimen of oxycontin 20q12, oxycodone
   and tizanidine
   - Encourage increased use of PRNs; she is not taking consistently
   # Anemia: Her hct is within her recent baseline after surgery. Will
   continue cyanocobalamin and multivitamin. No active evidence of
   bleeding.
   - monitor hct
   # Anxiety: Will continue venlafaxine, clonazepam, quetiapine. Social
   work has seen patient. Stagger sedating meds to avoid stacking.
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: heparin, bowel regimen, pain control as above
   # Access: peripherals
   # Communication: Patient and husband
   # Code: Full (discussed with patient); HCP husband [**Name (NI) 938**] [**Name (NI) 3033**]
   # Disposition: Call out to floor
   ORDERS:
   Ordered by [**Last Name (LF) **],[**Name6 (MD) **] E, MD Beeper#: [**Numeric Identifier 12222**] on [**2172-5-2**] @ 1124
   MED Potassium Chloride 40 mEq PO ONCE Duration: 1 Doses
   Hold for K > 4.0
   Ordered by [**Last Name (LF) **],[**Name6 (MD) **] E, MD Beeper#: [**Numeric Identifier 12222**] on [**2172-5-2**] @ 1123
   RAD CHEST (PORTABLE AP) for date [**2172-5-3**]
   Time to be done: MICU Rounds 4 am
   MED DISCONTINUE Morphine Sulfate 2-4 mg IV Q2H:PRN pain
   please hold for sedation; if possible, use PO meds first. Thanks.
   MED CHANGE Gabapentin 300 mg PO/NG Q8H
   hold for sedation
   TO Gabapentin 400 mg PO/NG Q8H
   hold for sedation
   MED CHANGE OxycoDONE (Immediate Release)  5-10 mg PO/NG Q4H:PRN pain
   TO OxycoDONE (Immediate Release)  5-10 mg PO/NG Q4H:PRN pain
   please hold until at least 30 minutes after scheduled pain meds
   Ordered by [**Last Name (LF) **],[**Name6 (MD) **] E, MD Beeper#: [**Numeric Identifier 12222**] on [**2172-5-2**] @ 1119
   LAB Blood, ADD-ON REQUEST: CK-MB; Troponin
   LAB CHANGE Blood, To be collected MORNING OF [**2172-5-3**]: CBC; Sodium;
   Potassium; Chloride; Bicarbonate; Glucose; BUN; PT (includes INR);
   Creatinine; PTT; Calcium; Phosphate; Magnesium
   TO Blood, To be collected MORNING OF [**2172-5-3**]: CBC; Sodium; Potassium;
   Chloride; CK-MB; Bicarbonate; Troponin; Glucose; BUN; PT (includes
   INR); Creatinine; PTT; Calcium; Phosphate; Magnesium
   Ordered by [**Last Name (LF) **],[**Name6 (MD) **] E, MD Beeper#: [**Numeric Identifier 12222**] on [**2172-5-2**] @ 1118
   MED Warfarin 4 mg PO/NG DAILY16
   LAB Blood, To be collected MORNING OF [**2172-5-3**]: CBC; Sodium; Potassium;
   Chloride; Bicarbonate; Glucose; BUN; PT (includes INR); Creatinine;
   PTT; Calcium; Phosphate; Magnesium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-4-30**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: